* RMS Freq Response - f=50Hz
.include sky130_pdk_fixup.spice
.lib sky130.lib.spice tt
.include design.cir
VDD vdd gnd 1.8
VSS vss gnd 0

Vreset reset gnd PULSE(1.8 0 2m 1n 1n 10k 20k)
Vin inp gnd SIN(0.9 0.1 50)
Xdut inp rms_out peak_out vdd vss reset rms_crest_top
.options reltol=1e-3
.tran 1.000000e-05 0.300
.control
run
wrdata tb_rms_freq_50.csv v(rms_out) v(Xdut.vcm_int)
quit
.endc
.end
